US07601843B2
N-[1-[2-[1-[2-[bis(Pyridin-4-ylmethyl)amino]ethyl]cyclohexyl]ethyl]piperidin-4-yl]-N-(p-tolyl)-2-furancarboxamide tetrahydrochloride
After adding a 4N hydrochloric acid/ethyl acetate solution (0.35 mL, 1.4 mmol) to a solution of N-[1-[2-[1-[2-[bis(pyridin-4-ylmethyl)amino]ethyl]cyclohexyl]ethyl]piperidin-4-yl]-N-(p-tolyl)-2-furancarboxamide (171 mg, 0.28 mmol) in ethyl acetate (2 mL)-ethanol (2 mL), the mixture was stirred at room temperature for 10 minutes. Ethyl acetate (3 mL) was added to the reaction mixture, and after stirring for 20 minutes in an ice bath, the precipitated crystals were filtered out and dried under reduced pressure to obtain the title compound as a white solid (136 mg, 0.18 mmol) (64% yield).

reactant | hydrochloric acid ethyl acetate | 1.4 mmol, 4N, 0.35 mL | Cl.C(C)(=O)OCC
reactant | N-[1-[2-[1-[2-[bis(pyridin-4-ylmethyl)amino]ethyl]cyclohexyl]ethyl]piperidin-4-yl]-N-(p-tolyl)-2-furancarboxamide | 0.28 mmol, 171 mg | N1=CC=C(C=C1)CN(CCC1(CCCCC1)CCN1CCC(CC1)N(C(=O)C=1OC=CC1)C1=CC=C(C=C1)C)CC1=CC=NC=C1 | C39H49N5O2
reactant | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | Ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | N-[1-[2-[1-[2-[bis(Pyridin-4-ylmethyl)amino]ethyl]cyclohexyl]ethyl]piperidin-4-yl]-N-(p-tolyl)-2-furancarboxamide tetrahydrochloride | 0.18 mmol, 136 mg, 64% yield | Cl.Cl.Cl.Cl.N1=CC=C(C=C1)CN(CCC1(CCCCC1)CCN1CCC(CC1)N(C(=O)C=1OC=CC1)C1=CC=C(C=C1)C)CC1=CC=NC=C1 | InChI=1S/C39H49N5O2.4ClH/c1-32-7-9-35(10-8-32)44(38(45)37-6-5-29-46-37)36-15-25-42(26-16-36)27-19-39(17-3-2-4-18-39)20-28-43(30-33-11-21-40-22-12-33)31-34-13-23-41-24-14-34;;;;/h5-14,21-24,29,36H,2-4,15-20,25-28,30-31H2,1H3;4*1H
